US06387919B1
To a 1-L flask was added a magnetic stir bar, 85 g of sodium sulfate, and 100 mL of water. The mixture was magnetically stirred until all the solids were dissolved. To the resultant aqueous solution was added a solution of 6-aminobenzothiazole (4.96 g, 33.0 mmol) in 50 mL of 1N aqueous hydrochloric acid and 10 mL of ethanol. The mixture was stirred, and chloral (6.0 9, (36 mmol) was added. To the resultant solution was added a solution of hydroxyl amine hydrochloride (7.50 g, 108 mmol) in 30 mL of water. The final mixture was heated with stirring to a gentle boil until all solids dissappeared, and heating was continued for an additional 15 min. The flask was removed from the heat, and the solution was poured onto 500 g of ice. The mixture was stirred as the product precipatated from solution. The precipatate was collected by suction filtration, washed thoroughly with water, filtered, and air dried to provide 6.9 g (94%) of N-benzothiazol-6yl-2-hydroxyimino-acetamide: 1H NMR (DMSO-d6): δ 12.2 (s, 1H), 10.4 (s, 1H), 9.2 (s, 1H), 8.5 (s, 1H), 7.9 (d, 1H), 7.7 (m, 1H), 7.7 (s 1H); APCI−MS m/z 220 (M−H)−. To a 1-L 3-neck round bottom flask was placed a magnetic stir bar and 100 ml of concentrated sulfuric acid. The flask was fitted with a thermometer to monitor the temperature of the reaction. The sulfuric acid was heated to 100° C., and 10.0 g (45.2 mmol) of N-benzothiazol-6-yl-2-hydroxyimino-acetamide was added slowly. The solution was heated for ˜1 h, and the reaction mixture was poured into 750 g of ice and water. The residual reaction mixture in the reaction vessel was washed out with an additional 20 mL of cold water. The aqueous slurry was stirred for about 1 h and filtered. The solid was washed thoroughly with water, filtered, and air dried to yield 4.3 g (46%) of 6-H-1-thia-3,6-diaza-as-indacen-7,8-dione: 1H NMR (DMSO-d6): δ 11.1 (s, 1H), 9.2 (s, 1H), 8.2 (d, 1H), 7.0 (d, 1H); APCI−MS m/z 203 (M−H)−.

reactant | sodium sulfate | 85 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 6-aminobenzothiazole | 33.0 mmol, 4.96 g | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
reactant | chloral | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | hydroxyl amine hydrochloride | 108 mmol, 7.50 g | Cl.ON
solvent | hydrochloric acid | 1N, 50 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | N-benzothiazol-6yl-2-hydroxyimino-acetamide | 6.9 g, 94% | S1C=NC2=C1C=C(C=C2)NC(C=NO)=O | C9H7N3O2S
